US04012380
7-(2-Thienylacetamido)-3-benzoyl-3-cephem-4-carboxylic acid.
To a cooled (5° C.), stirred slurry of 0.227 g. of benzhydryl 7-(2-thienylacetamido)-3-benzoyl-3-cephem-4-carboxylate in 2 ml. of anisole was added 1 ml. of cold trifluoroacetic acid. After the reaction mixture was allowed to stir with cooling for 20 minutes, 20 ml. of n-heptane was added, and the resulting solution was evaporated in vacuo to a low volume to remove excess trifluoroacetic acid. An additional 20 ml. of n-heptane was added to the residue and the resulting solution was stirred with cooling for approximately 5 minutes. The white precipitate which formed was filtered from the solution and dissolved in acetone. The acetone solution was filtered and the filtrate evaporated in vacuo to a low volume. The residue was dissolved in cold ethyl acetate and transferred to a separatory funnel. The ethyl acetate solution was extracted twice with cold aqueous sodium bicarbonate solution. The aqueous extracts were combined, layered with cold ethyl acetate and acidified with cold 1N.HCl. The ethyl acetate layer was separated, washed twice with brine, and dried over anhydrous sodium sulfate. Evaporation in vacuo to dryness provided 0.157 g. (96 percent) of the title acid which crystallized from methylene chloride/hexane. The product exhibited activity against gram-positive and gram-negative organisms at 0.1 mg/ml in a standard disc assay.

reactant | benzhydryl 7-(2-thienylacetamido)-3-benzoyl-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(C2=CC=CC=C2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C33H26N2O5S2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | n-heptane | CCCCCCC | C7H16
product | 7-(2-Thienylacetamido)-3-benzoyl-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(C2=CC=CC=C2)=O)C(=O)O)C1=O | C20H16N2O5S2
